US08030438B2
(5) Synthesis of 3,4-bis(diethoxyphosphoryl)thiophene
In benzene, 9.740 g (112 mmols) of commercially available manganese (IV) oxide was dissolved, to which 2.010 g (5.60 mmols) of 3,4-bis(diethoxyphosphoryl)-2,3-dihydrothiophene was added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 29 hours. After the reaction, the reaction mixture was cooled down to room temperature and the solid was removed by celite filtration. The filtrate was distilled off under reduced pressure to remove the solvent, and the resulting crude product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substance in the form of a brown solid at a yield of 1.700 g (yield: 85.4%).

reactant | 3,4-bis(diethoxyphosphoryl)-2,3-dihydrothiophene | 5.60 mmols, 2.010 g | C(C)OP(=O)(OCC)C1CSC=C1P(=O)(OCC)OCC | C12H24O6P2S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | manganese (IV) oxide | [O-2].[Mn+4].[O-2]
product | 3,4-bis(diethoxyphosphoryl)thiophene | yield: 85.4% | C(C)OP(=O)(OCC)C1=CSC=C1P(=O)(OCC)OCC | C12H22O6P2S
